US08071586B2
F) 4-((S)-3-Hydroxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester
A solution of 0.50 g (1.10 mmol) of 4-((S)-3-benzyloxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester (evaporated twice with toluene) in 9 ml dichloromethane was treated with 1.10 ml (1.10 mmol, 1 M in dichloromethane) of boron trichloride. The solution was stirred 6.5 h at room temperature, cooled (0° C.) and treated with 0.99 ml (0.90 mmol, 1 M in dichloromethane) of boron trichloride, after 15 h at room temperature, additional 0.28 ml (0.28 mmol, 1 M in dichloromethane) of boron trichloride were added to the cooled (0° C.) reaction. After 24 h at room temperature, the mixture was extracted with cold sat. aq. sodium hydrogencarbonate solution and ethyl acetate (3×). The organic phases were washed with sat. aq. sodium hydrogencarbonate solution, 10% aq. sodium chloride solution, dried over Na2SO4 evaporated to give 0.298 g (75%) of the title compound as light yellow oil. MS: 365.0 (MH+).

reactant | 4-((S)-3-benzyloxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 1.10 mmol, 0.50 g | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)[C@@H](CCOCC1=CC=CC=C1)C(=O)OC | C25H30N2O6
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | boron trichloride | 1.10 mmol, 1 M, 1.10 ml | B(Cl)(Cl)Cl | BCl3
reactant | boron trichloride | 0.90 mmol, 1 M, 0.99 ml | B(Cl)(Cl)Cl | BCl3
reactant | boron trichloride | 0.28 mmol, 1 M, 0.28 ml | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 4-((S)-3-Hydroxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 0.298 g, 75% | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)[C@@H](CCO)C(=O)OC | C18H24N2O6
